US04247700
2-Cyano-1-dimethylamino-3-(4-hydroxypiperidino)propane
2-Dimethylaminomethylpropenenitrile (1.1 g., 0.01 mole) was cooled to 10°-15° C. and to it was added dropwise 4-hydroxypiperidine (1.0 g., 0.01 mole). The evolution of heat is observed. The homogeneous mixture is allowed to stand 12 hours at 15°-20° C. Completion of addition reaction is determined using thin layer chromatography on silica gel with benzene-methyl alcohol (90:10) development. The appearance of a single spot and elimination of reactant spots indicate termination.

reactant | 2-Dimethylaminomethylpropenenitrile | 0.01 mole, 1.1 g | CN(C)CC(C#N)=C | C6H10N2
reactant | 4-hydroxypiperidine | 0.01 mole, 1.0 g | OC1CCNCC1 | C5H11NO
solvent | benzene methyl alcohol | C1=CC=CC=C1.CO
product | 2-Cyano-1-dimethylamino-3-(4-hydroxypiperidino)propane | C(#N)C(CN(C)C)CN1CCC(CC1)O | C11H21N3O
